US09029391B2
Methyl N-({2-[(2,4-dimethylphenyl)carbonyl]phenyl}carbonyl)-N-methylglycinate
A mixture of 2-(2,4-dimethylbenzoyl)benzoic acid (50 g, 197 mmol) and thionyl chloride (215 mL, 2949 mmol) was heated at 70° C. for 1.5 hours. The mixture was concentrated, dissolved in tetrahydrofuran (THF) (200 mL) and N,N-dimethylformamide (DMF) (40 mL) and treated with methyl N-methylglycinate (27.4 g, 197 mmol). The mixture was cooled to 0° C. and treated with Hunig's base (103 mL, 590 mmol). The mixture was heated to 70° C. for 1 hour, cooled to ambient temperature and then diluted with ethyl acetate. The organic phase was washed with 1N HCl, water, then brine, dried over sodium sulfate, filtered and concentrated to a brown thick oil (60 g, 90%) which was used without further purification. LC/MS (m/z) ES+=340 (M+1).

reactant | 2-(2,4-dimethylbenzoyl)benzoic acid | 197 mmol, 50 g | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)C | C16H14O3
reactant | thionyl chloride | 2949 mmol, 215 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methyl N-methylglycinate | 197 mmol, 27.4 g | CNCC(=O)OC | C4H9NO2
reactant | Hunig's base | 590 mmol, 103 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | Methyl N-({2-[(2,4-dimethylphenyl)carbonyl]phenyl}carbonyl)-N-methylglycinate | CC1=C(C=CC(=C1)C)C(=O)C1=C(C=CC=C1)C(=O)N(CC(=O)OC)C | C20H21NO4
